US08563735B2
tert-butyl 5-hydroxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
A mixture of 1,2,3,4-tetrahydroisoquinolin-5-ol hydrochloric acid (1.0 g), di-tert-butyl dicarbonate (1.27 g) and 1.0 N NaOH (14.5 mL) in dioxane (20 mL) was stirred at room temperature for 16 hours. The reaction mixture was partitioned between water and ethyl acetate. The aqueous layer was neutralized with 5% HCl. The combined organic layers were washed with brine, dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography on silica gel to give the title compound.

reactant | 1,2,3,4-tetrahydroisoquinolin-5-ol hydrochloric acid | 1.0 g | Cl.C1NCCC=2C(=CC=CC12)O
reactant | di-tert-butyl dicarbonate | 1.27 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1.0 N, 14.5 mL | [OH-].[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | tert-butyl 5-hydroxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | OC1=C2CCN(CC2=CC=C1)C(=O)OC(C)(C)C | C14H19NO3
